US07507740B2
Production of 3-(4-amino-2-chlorophenoxy)benzonitrile
To a solution of 3-(2-chloro-4-nitrophenoxy)benzonitrile (2.0 g) in ethanol/water (9:1, 40 mL) was added calcium chloride (90%, 449 mg), and the mixture was stirred at 100° C. for 10 min. Reduced iron (90%, 2.7 g) was added at room temperature, and the mixture was stirred at 100° C. for 5 hrs. After the completion of the reaction, the reaction mixture was filtered (celite), and the filtrate was concentrated under reduced pressure. Water was added to the residue and the mixture was diluted with ethyl acetate and washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1) to give the title compound (1.25 g) as a white solid.

reactant | 3-(2-chloro-4-nitrophenoxy)benzonitrile | 2.0 g | ClC1=C(OC=2C=C(C#N)C=CC2)C=CC(=C1)[N+](=O)[O-] | C13H7ClN2O3
reactant | calcium chloride | 449 mg | [Cl-].[Ca+2].[Cl-]
solvent | ethanol water | 40 mL | C(C)O.O
product | 3-(4-amino-2-chlorophenoxy)benzonitrile | 1.25 g | NC1=CC(=C(OC=2C=C(C#N)C=CC2)C=C1)Cl | C13H9ClN2O
